US04677190
PREPARATION OF 2,5-DIOXABICYCLO[2.2.2]OCTAN-3-ONE
A mixture of the cis and trans isomers of ethyl 5-hydroxytetrahydropyran-2-carboxylate (3.9 g, 0.023 mol) was dissolved in dry toluene (200 ml). p-Toluene-sulfonic acid monohydrate (0.20 g, 1.1 mmol) was added as a catalyst. The mixture was refluxed for 7 hours through a Soxhlet extractor containing molecular Type A sieves in a thimble. The mixture was cooled to room temperature, and anhydrous sodium carbonate (5 g) was added to neutralize the acid. The solution was passed through a short pad of silica gel and concentrated. A brown viscous oil was subjected to column chromatography (column, silica gel; eluent, n-hexane/ethyl acetate, 1:1 v/v). The crude product thus isolated was purified by repeated recrystallization from a mixture of ethyl ether and n-hexane (5-20:1 v/v). The lactone has a melting point of 56°-57° C.

reactant | ethyl 5-hydroxytetrahydropyran-2-carboxylate | 0.023 mol, 3.9 g | OC1CCC(OC1)C(=O)OCC | C8H14O4
reactant | p-Toluene-sulfonic acid monohydrate | 1.1 mmol, 0.20 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium carbonate | 5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2,5-DIOXABICYCLO[2.2.2]OCTAN-3-ONE | C12OC(C(OC1)CC2)=O | C6H8O3
